* C:\Users\begow\Desktop\all\repos\MPEI\MPEI_Magistracy\Term_3\memory_system\variant_1\KM4\Memory.asc
V1 ~YT 0 PWL(0 1.5 6e-6 1.5 6.01e-6 0)
V2 Eq 0 PWL(0 0 3.5e-6 0 3.51e-6 1.5 4e-6 1.5 4.01e-6 0)
V3 YT 0 PWL(0 0 6e-6 0 6.01e-6 1.5)
V4 WL 0 PWL(0 0 2e-6 0 2.01e-6 1.5 3e-6 1.5 3.01e-6 0 5.9e-6 0 5.91e-6 1.5)
V5 IN 0 PULSE(0 1.5 0 1e-8 1e-8 2e-6 4e-6 2)
V6 EN 0 PULSE(0 1.5 0 1e-8 1e-8 3.5e-6 7.9e-6 1)
XX4 N001 N002 N005 N006 ADR_COL_0 ADR_COL_1 N003 mux
XX1 IN N001 N002 N005 N006 ADR_COL_0 ADR_COL_1 EN demux
XX2 N003 N004 invert
V7 N013 0 PULSE(0 1.5 0 1e-9 1e-9 100e-9 200e-9)
XX12 ADR_COL_0 ADR_COL_1 N007 N008 N009 N010 addres_decoder
V8 ADR_COL_0 0 PULSE(1.5 0 0 1e-8 1e-8 1e-6 2e-6 4)
V9 ADR_COL_1 0 PULSE(1.5 0 0 1e-9 1e-9 2e-6 4e-6 2)
XX5 EN N013 N011 NC_01 d_latch
XX6 P001 N013 N012 dff
XX7 N011 P001 invert
XX3 N007 N008 N009 N010 N011 NC_02 N012 N001 N002 N005 N006 open_bitline_array

* block symbol definitions
.subckt mux D0 D1 D2 D3 S0 S1 OUT
M1 D3 N001 N003 NC_01 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N007 N002 OUT NC_02 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 N003 N002 OUT NC_03 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M4 D2 N001 N004 NC_04 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M5 N004 S1 OUT NC_05 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M6 N005 N002 OUT NC_06 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M7 D1 S0 N005 NC_07 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M8 D0 S0 N006 NC_08 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M9 N006 S1 OUT NC_09 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M10 D0 N001 N007 NC_10 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M11 N008 S1 OUT NC_11 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M12 D1 N001 N008 NC_12 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M13 N009 N002 OUT NC_13 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M14 D2 S0 N009 NC_14 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M15 D3 S0 N010 NC_15 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M16 N010 S1 OUT NC_16 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
XX1 S0 N001 invert
XX2 S1 N002 invert
.inc 130nm_bulk.pm
.ends mux

.subckt demux D_in D0 D1 D2 D3 S0 S1 EN
XX1 D_in N001 D0 three_state_new
XX2 D_in N003 D2 three_state_new
XX3 D_in N005 D1 three_state_new
XX4 D_in N006 D3 three_state_new
XX5 N002 N004 N001 N003 N005 N006 addres_decoder
XX6 S0 EN N002 three_state_new
XX7 S1 EN N004 three_state_new
.ends demux

.subckt invert in out
M1 out in 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N001 in out N001 PMOS l=130e-9 w=260e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends invert

.subckt addres_decoder A0 A1 D0 D1 D2 D3
XX1 N001 N002 A1 D2 charge_decoder
XX2 N001 A0 A1 D3 charge_decoder
XX3 N001 A0 N003 D1 charge_decoder
XX4 N001 N002 N003 D0 charge_decoder
V1 vdd 0 1.5
XX5 A0 N002 invert
XX6 A1 N003 invert
V2 N001 0 PULSE(0 1.5 0.1e-6 1e-9 1e-9 0.9e-6 1e-6)
.ends addres_decoder

.subckt d_latch D clk Q nQ
XX1 D clk N001 nand
XX2 clk N003 N002 nand
XX3 N001 nQ Q nand
XX4 Q N002 nQ nand
XX5 D N003 invert
.ends d_latch

.subckt dff D clk Q
XX1 D N002 N001 NC_01 d_latch
XX2 N001 clk Q NC_02 d_latch
XX3 clk N002 invert
.ends dff

.subckt open_bitline_array WL0 WL1 WL2 WL3 ~YT Eq YT BL0 BL1 BL2 BL3
XX2 WL0 BL1 memory_cell
XX3 WL0 BL2 memory_cell
XX4 WL0 BL3 memory_cell
XX5 WL1 BL0 memory_cell
XX6 WL1 BL1 memory_cell
XX7 WL1 BL2 memory_cell
XX8 WL1 BL3 memory_cell
XX9 WL2 N001 memory_cell
XX10 WL2 WL2 memory_cell
XX11 WL2 N002 memory_cell
XX12 WL2 N003 memory_cell
XX13 WL3 N001 memory_cell
XX14 WL3 WL2 memory_cell
XX15 WL3 N002 memory_cell
XX16 WL3 N003 memory_cell
XX17 Eq YT ~YT BL0 N001 amplifaer
XX18 Eq YT ~YT BL1 WL2 amplifaer
XX19 Eq YT ~YT BL2 N002 amplifaer
XX20 Eq YT ~YT BL3 N003 amplifaer
XX1 WL0 BL0 memory_cell
.ends open_bitline_array

.subckt three_state_new in en out
XX1 in en N002 nand
XX2 N003 in N004 nor
XX3 en N003 invert
M1 out N002 N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 out N004 0 0 NMOS l=130e-9 w=1560e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends three_state_new

.subckt charge_decoder select a0 a1 out
M1 N001 a1 N002 N002 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N001 select VDD VDD PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 N002 a0 N003 N003 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M4 N003 select 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M5 out N001 VDD VDD PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M6 out N001 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M7 N001 out VDD VDD PMOS l=260e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V3 VDD 0 1.5
.inc 130nm_bulk.pm
.ends charge_decoder

.subckt nand A B OUT
M1 OUT A N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N002 B 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 OUT B N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M4 OUT A N002 N002 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends nand

.subckt memory_cell WL BL
M1 BL WL N001 N001 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
C1 N001 0 140e-15
.inc 130nm_bulk.pm
.ends memory_cell

.subckt amplifaer Eq YT ~YT BL00 BL01
M1 BL01 Eq BL00 N003 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 N004 Eq BL00 BL00 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 N004 Eq BL01 BL01 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V2 N004 0 0.75
C1 BL00 0 80e-15
C2 BL01 0 80e-15
M4 BL00 BL01 N005 N005 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M5 BL01 BL00 N005 N005 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M6 N005 YT 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M8 BL00 BL01 N002 N002 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M9 BL01 BL00 N002 N002 PMOS l=130e-9 w=12600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M10 N002 ~YT N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V5 N001 0 1.5
.inc 130nm_bulk.pm
.ends amplifaer

.subckt nor A B OUT
M1 N002 A N001 N001 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M2 OUT A 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M3 OUT B N002 N002 PMOS l=130e-9 w=2600e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
M4 OUT B 0 0 NMOS l=130e-9 w=1300e-9 ad=676000e-18 as=676000e-18 pd=3640e-9 ps=3640e-9
V1 N001 0 1.5
.inc 130nm_bulk.pm
.ends nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\begow\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10e-6 0 1e-8
.backanno
.end
